US07732460B2
(e) {5-[(1,1-Dimethylethyl)thio]-4-oxo-1,4-dihydro-2-pyridinyl}methyl acetate
A solution of (5-[(1,1-dimethylethyl)thio]-4-[(phenylmethyl)oxy]-2-pyridinyl}methyl acetate (6 g) in 1,4-dioxane/water (100 ml/50 ml) was hydrogenated at atmospheric pressure with 10% palladium on charcol (7 g) overnight. Filtration and evaporation afforded a white solid (4.46 g, 95%).

reactant | (5-[(1,1-dimethylethyl)thio]-4-[(phenylmethyl)oxy]-2-pyridinyl}methyl acetate | 6 g | C(C)(=O)OCC1=NC=C(C(=C1)OCC1=CC=CC=C1)SC(C)(C)C | C19H23NO3S
solvent | 1,4-dioxane water | 100 ml | O1CCOCC1.O
catalyst | palladium | [Pd] | Pd
product | {5-[(1,1-Dimethylethyl)thio]-4-oxo-1,4-dihydro-2-pyridinyl}methyl acetate | 4.46 g, 95% | C(C)(=O)OCC=1NC=C(C(C1)=O)SC(C)(C)C | C12H17NO3S
